US04808620
The similar procedures in Example 1 by using 15.5 g of 4-(2-chloro-6-methylnicotinoyl)-2,6-di-tertiary butylphenol, 9.7 g of hydrazine hydrate and 85 ml of pyridine are carried out, and then the obtained crude crystals are recrystallized from ethanol to give 11.8 g of 3-(3,5-di-tertiary butyl-4-hydroxyphenyl)-6-methyl-1H-pyrazolo[3,4-b]pyridine as white crystals, melting at 239°-240° C.

reactant | 4-(2-chloro-6-methylnicotinoyl)-2,6-di-tertiary butylphenol | 15.5 g | ClC1=C(C(=O)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=CC(=N1)C | C21H26ClNO2
reactant | hydrazine hydrate | 9.7 g | O.NN
solvent | pyridine | 85 ml | N1=CC=CC=C1 | C5H5N
product | 3-(3,5-di-tertiary butyl-4-hydroxyphenyl)-6-methyl-1H-pyrazolo[3,4-b]pyridine | 11.8 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NNC2=NC(=CC=C21)C | C21H27N3O
